### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Walk): chords of walks

### PR DESCRIPTION
**Pull request by scp020**
Define `Walk.IsChord` and `Walk.IsChordless` predicates in a new file `SimpleGraph/Walk/Chord.lean`.

See "chord" in https://en.wikipedia.org/wiki/Glossary_of_graph_theory

---

[Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Walk.2EIsChordless.20live.20in.20mathlib.3F/with/575277309)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
...
+-/
+
+@[expose] public section
+
+namespace SimpleGraph
+namespace Walk
+
+universe u
+
+variable {V : Type u} {G : SimpleGraph V} {u : V}
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
variable {V : Type*} {G : SimpleGraph V} {u v w : V}
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 2]
```diff
@@ -0,0 +1,81 @@
...
+
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
+of the edges of `p`. -/
+def IsChord (p : G.Walk u u) (v w : V) : Prop :=
+  v ∈ p.support ∧ w ∈ p.support ∧ G.Adj v w ∧ s(v, w) ∉ p.edges
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Can you define this for non-closed walks as well? The definition seems to not depend on the walk being closed

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 3]
```diff
@@ -0,0 +1,79 @@
...
+  simpa [Sym2.eq_swap] using hnot_mem
+
+theorem isChord_iff {p : G.Walk u u} {v w : V} (hv : v ∈ p.support) (hw : w ∈ p.support)
+    (hvw : G.Adj v w) : p.IsChord v w ↔ s(v, w) ∉ p.edges := by
+  simp [IsChord, hv, hw, hvw]
+
+/-- A closed walk is chordless if it is a cycle and every edge of `G` between two vertices of the
+walk already appears as an edge of the walk. -/
+def IsChordless (p : G.Walk u u) : Prop :=
+  p.IsCycle ∧ ∀ ⦃v w : V⦄, v ∈ p.support → w ∈ p.support → G.Adj v w → s(v, w) ∈ p.edges
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Why is the `IsCycle` part necessary? The definition seems to make since even for non-cycles, and non-closed walks

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 4]
```diff
@@ -0,0 +1,79 @@
...
+  h.1
+
+theorem IsChordless.mem_edges {p : G.Walk u u} (h : p.IsChordless) {v w : V}
+    (hv : v ∈ p.support) (hw : w ∈ p.support) (hvw : G.Adj v w) : s(v, w) ∈ p.edges :=
+  h.2 hv hw hvw
+
+theorem IsChordless.not_isChord {p : G.Walk u u} (h : p.IsChordless) {v w : V} :
+    ¬ p.IsChord v w := by
+  rintro ⟨hv, hw, hvw, hnot_mem⟩
+  exact hnot_mem (h.mem_edges hv hw hvw)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
    ¬ p.IsChord v w :=
  fun ⟨hv, hw, hvw, hnot_mem⟩ ↦ hnot_mem (h.mem_edges hv hw hvw)
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 5]
```diff
@@ -0,0 +1,79 @@
...
+
+theorem isChordless_iff_forall_not_isChord {p : G.Walk u u} :
+    p.IsChordless ↔ p.IsCycle ∧ ∀ ⦃v w : V⦄, ¬ p.IsChord v w := by
+  constructor
+  · intro h
+    refine ⟨h.isCycle, ?_⟩
+    intro v w
+    exact h.not_isChord
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
  · exact fun h ↦ ⟨h.isCycle, fun v w ↦ h.not_isChord⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 6]
```diff
@@ -0,0 +1,79 @@
...
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
+of the edges of `p`. -/
+def IsChord (p : G.Walk u u) (v w : V) : Prop :=
+  v ∈ p.support ∧ w ∈ p.support ∧ G.Adj v w ∧ s(v, w) ∉ p.edges
+
+@[symm]
+theorem IsChord.symm {p : G.Walk u u} {v w : V} (h : p.IsChord v w) : p.IsChord w v := by
+  rcases h with ⟨hv, hw, hvw, hnot_mem⟩
+  refine ⟨hw, hv, hvw.symm, ?_⟩
+  simpa [Sym2.eq_swap] using hnot_mem
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
  grind [IsChord, Adj.symm]
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean (hunk 3 above)
Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: I think that although this is analogous, in graph theory a chord is indeed defined for a cycle. Using it for a non-closed walk would be an extended usage.

Sorry, I am not a native English speaker, so I may not always communicate very promptly.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 7]
```diff
@@ -0,0 +1,75 @@
...
+theorem isChordless_iff_forall_not_isChord {p : G.Walk u u} :
+    p.IsChordless ↔ p.IsCycle ∧ ∀ ⦃v w : V⦄, ¬ p.IsChord v w := by
+  constructor
+  · exact fun h ↦ ⟨h.isCycle, fun v w ↦ h.not_isChord⟩
+  · rintro ⟨hcycle, hnot⟩
+    refine ⟨hcycle, ?_⟩
+    intro v w hv hw hvw
+    classical
+    by_contra hnot_mem
+    exact hnot (v := v) (w := w) ⟨hv, hw, hvw, hnot_mem⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
  unfold IsChord
  push_neg
  rfl
```
or
```suggestion
  unfold IsChordless IsChord
  grind
```

Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Sorry, I am still not very fluent with Lean syntax, and I was not familiar with this style of syntax and concise proof writing, which added to the review burden.

**Comment by scp020** [comment]
Merge conflicts have been resolved now. Re-review would be appreciated. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean:1]: We tend to avoid plural in folder/file names. And, yes, `Walks` should probably be `Walk`

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 8]
```diff
@@ -0,0 +1,67 @@
...
+@[expose] public section
+
+namespace SimpleGraph
+namespace Walk
+
+variable {V : Type*} {G : SimpleGraph V} {u v w : V}
+
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
+of the edges of `p`. -/
+def IsChord (p : G.Walk u u) (v w : V) : Prop :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Shouldn't this instead be
```suggestion
def IsChord (p : G.Walk u u) (e : Sym2 V) : Prop :=
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 9]
```diff
@@ -0,0 +1,67 @@
...
+  grind [IsChord, Adj.symm]
+
+theorem isChord_iff {p : G.Walk u u} {v w : V} (hv : v ∈ p.support) (hw : w ∈ p.support)
+    (hvw : G.Adj v w) : p.IsChord v w ↔ s(v, w) ∉ p.edges := by
+  simp [IsChord, hv, hw, hvw]
+
+/-- A closed walk is chordless if it is a cycle and every edge of `G` between two vertices of the
+walk already appears as an edge of the walk. -/
+def IsChordless (p : G.Walk u u) : Prop :=
+  p.IsCycle ∧ ∀ ⦃v w : V⦄, v ∈ p.support → w ∈ p.support → G.Adj v w → s(v, w) ∈ p.edges
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Can you `IsChord` here?

Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: > Can you `IsChord` here?

I may be misunderstanding, but do you mean that I should define `IsChord` before `IsChordless`?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Sorry, I meant "use". It makes sense to me to define `IsChordless` in terms of `IsChord`

Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: > Sorry, I meant "use". It makes sense to me to define `IsChordless` in terms of `IsChord`

Okay, I have updated the definitions. Please take another look.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 10]
```diff
@@ -0,0 +1,71 @@
...
+
+namespace SimpleGraph
+namespace Walk
+
+variable {V : Type*} {G : SimpleGraph V} {u v w : V}
+
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
+of the edges of `p`. -/
+def IsChord (p : G.Walk u u) (e : Sym2 V) : Prop :=
+  e = s(v, w) ∧ v ∈ p.support ∧ w ∈ p.support ∧ G.Adj v w ∧ e ∉ p.edges
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Instead of having those extra parameters `v` and `w`, you should be using `Sym2.lift` on `v \in p.support \and w \in p.support` to lift it to a predicate on `Sym2 V` which you can feed `e` to

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean:1]: Can you please rename the file to `Chord`?

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 11]
```diff
@@ -0,0 +1,85 @@
...
+namespace SimpleGraph
+namespace Walk
+
+variable {V : Type*} {G : SimpleGraph V} {u v w : V}
+
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
+of the edges of `p`. -/
+def IsChord (p : G.Walk u u) (e : Sym2 V) : Prop :=
+  e.lift
+    ⟨fun v w => v ∈ p.support ∧ w ∈ p.support ∧ G.Adj v w ∧ s(v, w) ∉ p.edges,
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
  e ∈ G.edges ∧ e ∉ p.edges ∧ e.lift
    ⟨fun v w => v ∈ p.support ∧ w ∈ p.support,
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 12]
```diff
@@ -0,0 +1,85 @@
...
+      fun v w =>
+        propext
+          ⟨fun ⟨hv, hw, hvw, hnot⟩ =>
+              ⟨hw, hv, hvw.symm, by grind⟩,
+            fun ⟨hw, hv, hvw, hnot⟩ =>
+              ⟨hv, hw, hvw.symm, by grind⟩⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
      by grind⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 13]
```diff
@@ -0,0 +1,85 @@
...
+
+@[symm]
+theorem IsChord.symm {p : G.Walk u u} {v w : V}
+    (h : p.IsChord (s(v, w))) : p.IsChord (s(w, v)) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: I don't see the point of this lemma. The argument to `IsChord` doesn't change

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 14]
```diff
@@ -0,0 +1,85 @@
...
+  p.IsCycle ∧ ∀ ⦃v w : V⦄, ¬ p.IsChord (s(v, w))
+
+theorem IsChordless.isCycle {p : G.Walk u u} (h : p.IsChordless) : p.IsCycle :=
+  h.1
+
+theorem IsChordless.mem_edges {p : G.Walk u u} (h : p.IsChordless) {v w : V}
+    (hv : v ∈ p.support) (hw : w ∈ p.support) (hvw : G.Adj v w) : s(v, w) ∈ p.edges := by
+  exact not_not.mp
+    fun notedge => h.2 (v := v) (w := w) ((isChord_iff (p := p) hv hw hvw).2 notedge)
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
    fun notedge => h.2 (v := v) (w := w) ((isChord_iff (p := p) hv hw hvw).2 notedge)
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 15]
```diff
@@ -0,0 +1,85 @@
...
+
+theorem IsChordless.not_isChord {p : G.Walk u u} (h : p.IsChordless) {v w : V} :
+    ¬ p.IsChord (s(v, w)) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
theorem IsChordless.not_isChord {p : G.Walk u u} (h : p.IsChordless) {e : Sym2 V} :
    ¬ p.IsChord e := by
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 16]
```diff
@@ -0,0 +1,85 @@
...
+  exact h.2 (v := v) (w := w)
+
+theorem isChordless_iff_forall_not_isChord {p : G.Walk u u} :
+    p.IsChordless ↔
+      p.IsCycle ∧ ∀ ⦃v w : V⦄, v ∈ p.support → w ∈ p.support → G.Adj v w → s(v, w) ∈ p.edges :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: This is misnamed

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 17]
```diff
@@ -0,0 +1,85 @@
...
+  Iff.intro
+    (fun h =>
+      ⟨h.1, fun {v w} hv hw hvw =>
+        not_not.mp
+          (fun notedge => h.2 (v := v) (w := w) ((isChord_iff (p := p) hv hw hvw).2 notedge))⟩)
+    (fun ⟨hcyc, hmem⟩ =>
+      ⟨hcyc, fun {v w} hch =>
+        (fun ⟨hv, hw, hvw, hnot⟩ => hnot (hmem hv hw hvw))
+          (show v ∈ p.support ∧ w ∈ p.support ∧ G.Adj v w ∧ s(v, w) ∉ p.edges from
+            by grind [IsChord, Sym2.lift_mk])⟩)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]:
```suggestion
      p.IsCycle ∧ ∀ ⦃v w : V⦄, v ∈ p.support → w ∈ p.support → G.Adj v w → s(v, w) ∈ p.edges where
  mp h :=
      ⟨h.1, fun {v w} hv hw hvw =>
        not_not.mp
          (fun notedge => h.2 (v := v) (w := w) ((isChord_iff (p := p) hv hw hvw).2 notedge))⟩)
  mpr := by
    rintro ⟨hcyc, hmem⟩
    exact ⟨hcyc, fun {v w} hch =>
        (fun ⟨hv, hw, hvw, hnot⟩ => hnot (hmem hv hw hvw))
          (show v ∈ p.support ∧ w ∈ p.support ∧ G.Adj v w ∧ s(v, w) ∉ p.edges from
            by grind [IsChord, Sym2.lift_mk])⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean (hunk 13 above)
Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: > I don't see the point of this lemma. The argument to `IsChord` doesn't changeI don't see the point of this lemma. The argument to `IsChord` doesn't change我不明白这个引理的意义。`IsChord`的参数没有变化。

Yes, that is because my earlier definition used ordered pairs, so this is a leftover from an earlier version and I forgot to remove it.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean (hunk 11 above)
Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Ok, I will take it. And btw, it is `G.edgeSet`

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 18]
```diff
@@ -0,0 +1,77 @@
...
+variable {V : Type*} {G : SimpleGraph V} {u v w : V}
+
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
+of the edges of `p`. -/
+def IsChord (p : G.Walk u u) (e : Sym2 V) : Prop :=
+  e ∈ G.edgeSet ∧ e ∉ p.edges ∧ e.lift
+    ⟨fun v w => v ∈ p.support ∧ w ∈ p.support, by grind⟩
+
+theorem isChord_iff {p : G.Walk u u} {v w : V} (hv : v ∈ p.support) (hw : w ∈ p.support)
+    (hvw : G.Adj v w) : p.IsChord s(v, w) ↔ s(v, w) ∉ p.edges := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: I would have expected this to be the following stronger theorem
```suggestion
theorem isChord_sym2Mk {p : G.Walk u u} {v w : V} : p.IsChord s(v, w) ↔ G.Adj v w \and s(v, w) ∉ p.edges v ∈ p.support \and w ∈ p.support := .rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean [hunk 19]
```diff
@@ -0,0 +1,77 @@
...
+  mpr := by
+    rintro ⟨hcyc, hmem⟩
+    refine ⟨hcyc, ?_⟩
+    simp only [Sym2.forall]
+    intro v w hch
+    exact
+      (fun ⟨hv, hw, hedge, hnot⟩ =>
+        hnot (hmem hv hw (by grind [SimpleGraph.mem_edgeSet])))
+      (show v ∈ p.support ∧ w ∈ p.support ∧ s(v, w) ∈ G.edgeSet ∧ s(v, w) ∉ p.edges from
+        by grind [IsChord, Sym2.lift_mk])
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chords.lean]: Does something like this work once you make `isChord_sym2Mk` simp?
```suggestion
      p.IsCycle ∧ ∀ ⦃v w : V⦄, v ∈ p.support → w ∈ p.support → G.Adj v w → s(v, w) ∈ p.edges := by
  simp [IsChordless, Sym2.forall]; grind
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean:1]: 🏓

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean [hunk 20]
```diff
@@ -0,0 +1,66 @@
...
+
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
+of the edges of `p`. -/
+def IsChord (p : G.Walk u u) (e : Sym2 V) : Prop :=
+  e ∈ G.edgeSet ∧ e ∉ p.edges ∧ e.lift
+    ⟨fun v w => v ∈ p.support ∧ w ∈ p.support, by grind⟩
+
+theorem isChord_sym2Mk {p : G.Walk u u} {v w : V} :
+    p.IsChord s(v, w) ↔ G.Adj v w ∧ s(v, w) ∉ p.edges ∧ v ∈ p.support ∧ w ∈ p.support := by
+  simp [IsChord, Sym2.lift_mk, SimpleGraph.mem_edgeSet]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: Doesn't this work?
```suggestion
    p.IsChord s(v, w) ↔ G.Adj v w ∧ s(v, w) ∉ p.edges ∧ v ∈ p.support ∧ w ∈ p.support := .rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean [hunk 21]
```diff
@@ -0,0 +1,66 @@
...
+
+/-- A closed walk is chordless if it is a cycle and has no chord. -/
+def IsChordless (p : G.Walk u u) : Prop :=
+  p.IsCycle ∧ ∀ ⦃e : Sym2 V⦄, ¬ p.IsChord e
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: What about
```suggestion
structure IsChordless (p : G.Walk u u) : Prop extends
  isCycle : p.IsCycle where
  not_isChord : ∀ ⦃e : Sym2 V⦄, ¬ p.IsChord e
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean [hunk 22]
```diff
@@ -0,0 +1,66 @@
...
+
+theorem IsChordless.isCycle {p : G.Walk u u} (h : p.IsChordless) : p.IsCycle :=
+  h.1
+
+theorem IsChordless.mem_edges {p : G.Walk u u} (h : p.IsChordless) {v w : V}
+    (hv : v ∈ p.support) (hw : w ∈ p.support) (hvw : G.Adj v w) : s(v, w) ∈ p.edges := by
+  exact not_not.mp fun notedge =>
+    h.2 (e := s(v, w))
+      ((isChord_sym2Mk (p := p) (v := v) (w := w)).2 ⟨hvw, notedge, hv, hw⟩)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: Can you prove this from `isChordless_iff_forall_mem_edges` instead?

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean
Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean:1]: > 🏓

Sorry, I previously overlooked this message.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean (hunk 20 above)
Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: Yes, that indeed does not work.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean [hunk 23]
```diff
@@ -0,0 +1,66 @@
...
+
+* `SimpleGraph.Walk.IsChord`: an edge of the ambient graph between two vertices of a closed walk
+  which is not an edge of the walk itself
+* `SimpleGraph.Walk.IsChordless`: a cycle with no chords
+
+## Tags
+walks, cycles, chords
+-/
+
+@[expose] public section
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: We are now trying to move away from`[expose]` being the default in mathlib files.Can you move it to the two `def`s`?

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: I just tried and it works. Did you forget the `.` in `.rfl`?

Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: > I just tried and it works. Did you forget the `.` in `.rfl`?

Oh, yes, I made that silly mistake.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean (hunk 21 above)
Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: I recommend keeping IsChordless as a def (a conjunction), not changing it to a structure.

It is a pure predicate with no extra data, and the current def form is simpler and more idiomatic for this use case in mathlib. It also works smoothly with current API (h.1, h.2, simp [IsChordless]).
Switching to a structure would likely require extra projection/simp API without clear benefit for this PR.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: I believe the situation is the exact opposite: everything you use about `IsChordless` is the constructor and the named projections (look, you defined projections `isCycle` and `not_mem_edges` yourself), and `structure` gives you exactly that, and no more.

This pattern is repeated throughout the `Walk` API: see `IsTrail`, `IsPath`, `IsCircuit`, `IsCycle`, ... Hopefully you can trust me on idiomacy?

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: I agree with Yaël, but can we please please drop the cycle requirement? I really want to talk about chordless walks and I find no reason to add this additional requirement.

Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: > I agree with Yaël, but can we please please drop the cycle requirement? I really want to talk about chordless walks and I find no reason to add this additional requirement.

Okay, I have now changed the definition of `IsChordless` to a structure. I also now agree that it does make sense to add an `IsChordless` notion that is not required to be on a cycle.

At the moment, I am planning to change it as follows:

```lean
@[expose]
def IsChordless (p : G.Walk u u) : Prop :=
  ∀ ⦃e : Sym2 V⦄, ¬ p.IsChord e

structure IsChordlessCycle (p : G.Walk u u) : Prop extends
  isCycle : p.IsCycle where
  isChordless : p.IsChordless
```

We can let Yaël Dillies weigh in on this.
@YaelDillies

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: I would say
```
@[expose]
def IsChordless (p : G.Walk u v) : Prop :=
  ∀ ⦃e : Sym2 V⦄, ¬ p.IsChord e
```
is all we need, and we can leave it to users to assume `IsCycle` separately where needed

Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Chord.lean]: > I would say
> 
> ```
> @[expose]
> def IsChordless (p : G.Walk u v) : Prop :=
>   ∀ ⦃e : Sym2 V⦄, ¬ p.IsChord e
> ```
> 
> is all we need, and we can leave it to users to assume `IsCycle` separately where needed

Sorry, I was a bit busy last week. I’ve updated the code now.

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 24]
```diff
@@ -0,0 +1,65 @@
+/-
+Copyright (c) 2026 Tianyi Zhao. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tianyi Zhao
+-/
+module
+
+public import Mathlib.Combinatorics.SimpleGraph.Paths
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]:
```suggestion
public import Mathlib.Combinatorics.SimpleGraph.Walk.Basic
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 25]
```diff
@@ -0,0 +1,65 @@
...
+
+/-!
+# Chords of walks
+
+This file defines chords and chordless closed walks in a simple graph.
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]:
```suggestion
This file defines chords and chordless walks in a simple graph.
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 26]
```diff
@@ -0,0 +1,65 @@
...
+
+## Main definitions
+
+* `SimpleGraph.Walk.IsChord`: an edge of the ambient graph between two vertices of a closed walk
+  which is not an edge of the walk itself
+* `SimpleGraph.Walk.IsChordless`: a cycle with no chords
+
+## Tags
+walks, cycles, chords
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]:
```suggestion
* `SimpleGraph.Walk.IsChord`: an edge of the ambient graph between two vertices of a walk
  which is not an edge of the walk itself
* `SimpleGraph.Walk.IsChordless`: a walk with no chords

## Tags
walks, chords
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 27]
```diff
@@ -0,0 +1,65 @@
...
+-/
+
+public section
+
+namespace SimpleGraph
+namespace Walk
+
+variable {V : Type*} {G : SimpleGraph V} {u v w : V}
+
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]:
```suggestion
/-- A chord of a walk `p` is an edge of `G` between two vertices of `p` which is not one
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 28]
```diff
@@ -0,0 +1,65 @@
...
+of the edges of `p`. -/
+@[expose]
+def IsChord (p : G.Walk u v) (e : Sym2 V) : Prop :=
+  e ∈ G.edgeSet ∧ e ∉ p.edges ∧ e.lift
+    ⟨fun v w => v ∈ p.support ∧ w ∈ p.support, by grind⟩
+
+theorem isChord_sym2Mk {p : G.Walk u u} {v w : V} :
+    p.IsChord s(v, w) ↔ G.Adj v w ∧ s(v, w) ∉ p.edges ∧ v ∈ p.support ∧ w ∈ p.support := .rfl
+
+/-- A walk is chordless if it has no chord. -/
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]:
```suggestion
/-- A walk is chordless if it has no chords. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 29]
```diff
@@ -0,0 +1,65 @@
...
+namespace Walk
+
+variable {V : Type*} {G : SimpleGraph V} {u v w : V}
+
+/-- A chord of a closed walk `p` is an edge of `G` between two vertices of `p` which is not one
+of the edges of `p`. -/
+@[expose]
+def IsChord (p : G.Walk u v) (e : Sym2 V) : Prop :=
+  e ∈ G.edgeSet ∧ e ∉ p.edges ∧ e.lift
+    ⟨fun v w => v ∈ p.support ∧ w ∈ p.support, by grind⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]: I think this is a better split but I'm not sure if the style guide has any opinions on this, so up to you
```suggestion
  e ∈ G.edgeSet ∧ e ∉ p.edges ∧
    e.lift ⟨fun v w => v ∈ p.support ∧ w ∈ p.support, by grind⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 30]
```diff
@@ -0,0 +1,65 @@
...
+
+theorem isChord_sym2Mk {p : G.Walk u u} {v w : V} :
+    p.IsChord s(v, w) ↔ G.Adj v w ∧ s(v, w) ∉ p.edges ∧ v ∈ p.support ∧ w ∈ p.support := .rfl
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]: The walk doesn't have to be closed
```suggestion
theorem isChord_sym2Mk {p : G.Walk u v} {u' v' : V} :
    p.IsChord s(u', v') ↔ G.Adj u' v' ∧ s(u', v') ∉ p.edges ∧ u' ∈ p.support ∧ v' ∈ p.support :=
  .rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 31]
```diff
@@ -0,0 +1,65 @@
...
+
+/-- A walk is chordless if it has no chord. -/
+@[expose]
+def IsChordless (p : G.Walk u v) : Prop :=
+  ∀ ⦃e : Sym2 V⦄, ¬ p.IsChord e
+
+theorem isChordless_iff_forall_mem_edges {p : G.Walk u u} :
+    p.IsChordless ↔
+      ∀ ⦃v w : V⦄, v ∈ p.support → w ∈ p.support → G.Adj v w → s(v, w) ∈ p.edges := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]: The walk doesn't have to be closed
```suggestion
theorem isChordless_iff_forall_mem_edges {p : G.Walk u v} :
    p.IsChordless ↔
      ∀ ⦃u' v' : V⦄, u' ∈ p.support → v' ∈ p.support → G.Adj u' v' → s(u', v') ∈ p.edges := by
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 32]
```diff
@@ -0,0 +1,65 @@
...
+      intro hnot
+      exact h (e := s(v, w)) (by grind [isChord_sym2Mk])
+  · intro h
+    simp only [IsChordless, Sym2.forall]
+    intro v w hch
+    grind [isChord_sym2Mk]
+
+theorem IsChordless.mem_edges {p : G.Walk u u} (h : p.IsChordless) {v w : V}
+    (hv : v ∈ p.support) (hw : w ∈ p.support) (hvw : G.Adj v w) : s(v, w) ∈ p.edges := by
+  exact (isChordless_iff_forall_mem_edges.mp h) hv hw hvw
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]: The walk doesn't have to be closed
```suggestion
theorem IsChordless.mem_edges {p : G.Walk u v} (h : p.IsChordless) {u' v' : V}
    (hu' : u' ∈ p.support) (hv' : v' ∈ p.support) (hadj : G.Adj u' v') : s(u', v') ∈ p.edges :=
  isChordless_iff_forall_mem_edges.mp h hu' hv' hadj
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 33]
```diff
@@ -0,0 +1,65 @@
...
+      ∀ ⦃v w : V⦄, v ∈ p.support → w ∈ p.support → G.Adj v w → s(v, w) ∈ p.edges := by
+  constructor
+  · intro h v w hv hw hvw
+    exact not_not.mp <| by
+      intro hnot
+      exact h (e := s(v, w)) (by grind [isChord_sym2Mk])
+  · intro h
+    simp only [IsChordless, Sym2.forall]
+    intro v w hch
+    grind [isChord_sym2Mk]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]:
```suggestion
  refine ⟨fun h u' v' ↦ ?_, fun h ↦ ?_⟩
  · by_contra
    apply h (e := s(u', v'))
    grind [isChord_sym2Mk]
  · rw [IsChordless, Sym2.forall]
    grind [isChord_sym2Mk]
```

**Review by SnirBroshi — COMMENTED** [review]
Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 34]
```diff
@@ -0,0 +1,63 @@
...
+
+theorem isChordless_iff_forall_mem_edges {p : G.Walk u v} :
+    p.IsChordless ↔
+      ∀ ⦃u' v' : V⦄, u' ∈ p.support → v' ∈ p.support → G.Adj u' v' → s(u', v') ∈ p.edges := by
+  refine ⟨fun h u' v' ↦ ?_, fun h ↦ ?_⟩
+  · by_contra
+    apply h (e := s(u', v'))
+    grind [isChord_sym2Mk]
+  · rw [IsChordless, Sym2.forall]
+    grind [isChord_sym2Mk]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean]: Does something like
```suggestion
  simp [IsChordless, Sym2.forall, isChord_sym2Mk]; grind
```
work?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge

**Comment by scp020** [comment]
Oh no, I seem to have made a mistake.

**Comment by scp020** [comment]
@b-mehta I previously made an operational mistake — my apologies. Could you please review it again?

**Comment by b-mehta** [comment]
It looks like the diff now contains a bunch of unrelated changes, which seem unintentional?

**Comment by scp020** [comment]
> It looks like the diff now contains a bunch of unrelated changes, which seem unintentional?

I’m not entirely sure what happened either. I updated the PR almost at the same time as bors merge, which caused bors to be canceled. I then used revert to undo that change, but afterward I resolved conflicts, which seems to have led to the current situation.

**Comment by b-mehta** [comment]
Try doing a rebase on master, or just deleting the parts of the diff that you don't want included

**Comment by scp020** [comment]
> Try doing a rebase on master, or just deleting the parts of the diff that you don't want included

Okay, I’ve done that.

**Comment by scp020** [comment]
@b-mehta I believe the code is now in a good state. I’m very sorry, could you please review it once again?

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean [hunk 35]
```diff
@@ -0,0 +1,58 @@
...
+@[expose]
+def IsChordless (p : G.Walk u v) : Prop :=
+  ∀ ⦃e : Sym2 V⦄, ¬ p.IsChord e
+
+theorem isChordless_iff_forall_mem_edges {p : G.Walk u v} :
+    p.IsChordless ↔
+      ∀ ⦃u' v' : V⦄, u' ∈ p.support → v' ∈ p.support → G.Adj u' v' → s(u', v') ∈ p.edges := by
+  simp [IsChordless, Sym2.forall, isChord_sym2Mk]; grind
+
+theorem IsChordless.mem_edges {p : G.Walk u v} (h : p.IsChordless) {u' v' : V}
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean:53]:
```suggestion
@[grind →] theorem IsChordless.mem_edges {p : G.Walk u v} (h : p.IsChordless) {u' v' : V}
```
I think this should work. Other than this, this looks great.

**Review by b-mehta — APPROVED** [review]
bors d+

File: Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean (hunk 35 above)
Comment (scp020) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Chord.lean:53]: `@[grind →]` caused the CI to fail because the rule was triggering too broadly (60 instantiations), so I had to remove it.
